US05610163
Scopine di-(2-thienyl)glycolate
38.15 g (0.15 mole) of methyl di-(2-thienyl)glycolate and 23.28 g (0.15 mole) of scopine are mixed, 0.34 g (0.015 gram atom) of sodium is added and the mixture is melted in a heating bath at 90° C. under a water jet vacuum. The reaction lasts 2.5 hours. 100 ml of absolute toluene are then added and the mixture is stirred at a heating bath temperature of 90° C. until a solution is produced. The reaction solution is cooled to room temperature and stirred into a mixture of ice and hydrochloric acid cooled using ice. The hydrochloride of the basic ester crystallising out is filtered off under suction and washed using a small amount of water and a large amount of diethyl ether. The filtrate phases are separated off and the aqueous phase is extracted using diethyl ether. The hydrochloride filtered off under suction is suspended in the (acid) aqueous phase and converted to the base while monitoring the temperature and adding the corresponding amount of sodium carbonate; the base is extracted using methylene chloride. The combined methylene chloride phases are dried over sodium sulphate. After distilling off the methylene chloride, crystals remain which are purified over active charcoal and recrystallised from acetonitrile. Pale yellow crystals (from acetonitrile), m.p. 148°-49° C.;

reactant | methyl di-(2-thienyl)glycolate | 0.15 mole, 38.15 g | S1C(=CC=C1)C(C(=O)OC)(O)C=1SC=CC1 | C11H10O3S2
reactant | scopine | 0.15 mole, 23.28 g | CN1[C@@H]2CC(C[C@H]1[C@H]3[C@@H]2O3)O | C8H13NO2
reactant | sodium | 0.34 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Scopine di-(2-thienyl)glycolate | CN1[C@@H]2CC(C[C@H]1[C@H]3[C@@H]2O3)OC(=O)C(C4=CC=CS4)(C5=CC=CS5)O | C18H19NO4S2
